US07763639B2
3-BROMO-2-FLUOROBENZAMIDE
To a solution of 3-bromo-2-fluorobenzoic acid (3.77 g, 17.2 mmol) in dry tetrahydrofuran (200 ml) was added triethylamine (4.77 ml, 34.4 mmol) and thionyl chloride (1.69 ml, 21.5 mmol). The reaction mixture was stirred for 1 h and then quenched with ammonia in methanol (10 ml, saturated). After an additional hour of stirring the mixture was evaporated and the crude product was purified by flash column chromatography (ethyl acetate/isooctane 1:1) to give the title compound (1.76 g). MS m/z (rel. intensity, 70 eV) 219 (M+, 26), 217 (M+, 26), 203 (62), 201 (70), 94 (bp).

reactant | 3-bromo-2-fluorobenzoic acid | 17.2 mmol, 3.77 g | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
reactant | triethylamine | 34.4 mmol, 4.77 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 21.5 mmol, 1.69 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-BROMO-2-FLUOROBENZAMIDE | 1.76 g | BrC=1C(=C(C(=O)N)C=CC1)F | C7H5BrFNO
